US06747081B2
To a 500-milliliter round-bottom flask equipped with a magnetic stirring bar, a water separator, and a condenser were added 27.23 grams (0.200 mol) of pentaerythritol, 90.22 grams (0.850 mol) of 2-mercaptopropionic acid, 100 milliliters of toluene, and 0.5 milliliter of concentrated sulfuric acid. The mixture was heated under reflux with stirring. After about 2 days, the solid material had disappeared, and about 17 milliliters (0.94 mol) of water had been collected by the water separator. Upon cooling to room temperature, the mixture was extracted with 30 milliliters of saturated NaHCO3 solution and washed with two 50-milliliter portions of water. The organic layer was dried over anhydrous MgSO4, and most of the toluene and residual 2-mercaptopropionic acid were removed by distillation under vacuum. Recrystallization of the residue from ethanol gave 86.0 grams (88.4%, calcd. 97.3 grams) of pentaerythritol tetrakis(2-mercaptopropionate) as a white solid, mp 93-96° C.; 1H NMR (in CDCl3 w/TMS, ppm): 4.17-4.30 (AB m, 8H, CH2O), 3.50 (pentuplet, 4H, CHSH), 2.17 (d of d, 4H, SH), 1.51 (d, 12H, CH3); {1H}13C NMR (in CDCl3 w/TMS, ppm): 172.79 (C═O), 62.47 (CH2O), 43.05 [C(CH2)4], 35.43 (CHSH), 20.94 (CH3).

reactant | pentaerythritol | 0.200 mol, 27.23 grams | OCC(CO)(CO)CO | C5H12O4
reactant | 2-mercaptopropionic acid | 0.850 mol, 90.22 grams | SC(C(=O)O)C | C3H6O2S
reactant | sulfuric acid | 0.5 milliliter | S(O)(O)(=O)=O | H2O4S
solvent | water | O | H2O
solvent | toluene | 100 milliliters | C1(=CC=CC=C1)C | C7H8
solvent | water | 0.94 mol, about 17 milliliters | O | H2O
product | pentaerythritol tetrakis(2-mercaptopropionate) | 86.0 grams, 88.4% | SC(C(=O)OCC(COC(C(C)S)=O)(COC(C(C)S)=O)COC(C(C)S)=O)C | C17H28O8S4
